US07678795B2
6,6-Dimethyl-3-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-6,7-dihydro-5H-cyclopenta[c]pyridazine
light yellow crystalline solid. MS (ESI): 305.2 (MH+). Prepared from 4,4-dimethyl-cyclopentane-1,2-dione (synthesis described in: J. Chem. Soc., 121, 1922, p523), [2-(5-Methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | 4,4-dimethyl-cyclopentane-1,2-dione | CC1(CC(C(C1)=O)=O)C | C7H10O2
reactant | [2-(5-Methyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C=1C=NN(C1C)C1=CC=CC=C1 | C14H17N2O4P
reactant | hydrazine monohydrate | O.NN
product | 6,6-Dimethyl-3-(5-methyl-1-phenyl-1H-pyrazol-4-yl)-6,7-dihydro-5H-cyclopenta[c]pyridazine | CC1(CC2=C(N=NC(=C2)C=2C=NN(C2C)C2=CC=CC=C2)C1)C | C19H20N4
